US03988333
3.8 g of triethyl aluminum were dissolved in 100 ml of dimethoxyethane, and the solution was cooled to -5° C. Under nitrogen gas current, a solution of 10.8 g of o-acetoxybenzoic acid dissolved in 100 ml of dimethoxyethane was added dropwise little by little to the above solution. After completion of the dropwise addition, the temperature of the mixture was returned to room temperature, and the reaction mixture was thrown into a great quantity of water. The precipitated crude crystals were recovered by filtration and dried under reduced pressure to yield 10.5 g of white aluminum tris-(o-acetoxybenzoate) having a molecular weight of about 550 and an average degree of polymerization of about 1. The infrared absorption spectrum of the resulting aluminum salt was as follows:

reactant | triethyl aluminum | 3.8 g | C(C)[Al](CC)CC
reactant | o-acetoxybenzoic acid | 10.8 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | water | O | H2O
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | aluminum tris-(o-acetoxybenzoate) | 10.5 g | C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.[Al+3] | InChI=1S/3C9H8O4.Al/c3*1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h3*2-5H,1H3,(H,11,12);/q;;;+3/p-3
